US07795283B2
i) Methyl [1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate
A mixture of 2-Chloro-5-nitropyridine (1.59 g, 10 mmol) and methyl piperidin-4-ylacetate hydrochloride (1.8 g, 10 mmol) (prepared as described in Patent Application WO 2000029407) in DMA (50 mL) was treated with 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine (BEMP) (15 g of a 2.2 mmol/g loading on polystyrene support, 33 mmol). The resulting mixture was stirred for 2.5 h then filtered through diatomaceous earth. Volatile material was removed by evaporation to give the title compound (740 mg, 21%) as a solid; 1H NMR δ 1.08-1.28 (2H, m), 1.77 (2H, d), 1.99-2.12 (1H, m), 2.29 (2H, d), 3.07 (2H, t), 3.60 (3H, s), 4.51 (2H, d), 6.94 (1H, d), 8.13-8.25 (1H, m), 8.95 (d, 1H); MS m/e MH+ 280.

reactant | 2-Chloro-5-nitropyridine | 10 mmol, 1.59 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | methyl piperidin-4-ylacetate hydrochloride | 10 mmol, 1.8 g | Cl.N1CCC(CC1)CC(=O)OC
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
solvent | DMA | 50 mL | CC(=O)N(C)C | C4H9NO
product | Methyl [1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate | 740 mg, 21% | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)CC(=O)OC | C13H17N3O4
